US04146631
The 5-nitrosalicyloyl chloride thus obtained was dissolved in dry toluene (40 ml) and treated with anhydrous 5-aminotetrazole (3.4 g) and the mixture was stirred and heated at reflux for 12 hours. The mixture was then allowed to cool and was treated with petroleum ether (b.p. 40°-60° C.; 40 ml). The resulting solid was filtered off, washed with petroleum ether (b.p. 40°-60° C.) and stirred with hydrochloric acid (2N; 100 ml). The undissolved solid was filtered off, washed with hydrochloric acid (2N) and with water, and was then dried and dissolved in glacial acetic acid (750 ml). The solution was filtered hot and was then concentrated to 150 ml volume and was then cooled and filtered to give 2-hydroxy-5-nitro-N-(tetrazol-5-yl)-benzamide (2.2 g), m.p. 271°-272° C. (with decomposition).

reactant | 5-nitrosalicyloyl chloride | [N+](=O)([O-])C1=CC=C(C(C(=O)Cl)=C1)O | C7H4ClNO4
reactant | 5-aminotetrazole | 3.4 g | NC1=NN=NN1 | CH3N5
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-hydroxy-5-nitro-N-(tetrazol-5-yl)-benzamide | 2.2 g | OC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)[N+](=O)[O-] | C8H6N6O4
